US04831041
A solution of 2-formamido-6-methylbenzyl alcohol (1.9 g) in tetrahydrofuran (26 ml) was added dropwise to a suspension of lithium aluminum hydride (0.873 g) in tetrahydrofuran (17 ml) at room temperature over a period of 10 minutes. After being refluxed for 4.5 hours, the excess reagent was decomposed with a small amount of water and the resulting precipitates were filtered off by suction. The filtrate was evaporated in vacuo and the residue was recrystallized from carbon tetrachloride to give 6-methyl-2-methylaminobenzyl alcohol (0.86 g).

reactant | 2-formamido-6-methylbenzyl alcohol | 1.9 g | C(=O)NC1=C(CO)C(=CC=C1)C | C9H11NO2
reactant | lithium aluminum hydride | 0.873 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | tetrahydrofuran | 26 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 17 ml | O1CCCC1 | C4H8O
product | 6-methyl-2-methylaminobenzyl alcohol | 0.86 g | CC1=CC=CC(=C1CO)NC | C9H13NO
